US06831193B2
3-[(4-methoxyphenyl)sulfanyl]benzaldehyde
2-(3-Bromophenyl)-1,3-dioxolane and bis(4-methoxyphenyl) disulfide were processed as described in Example 71A to provide the title compound.

reactant | 2-(3-Bromophenyl)-1,3-dioxolane | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | bis(4-methoxyphenyl) disulfide | COC1=CC=C(C=C1)SSC1=CC=C(C=C1)OC | C14H14O2S2
product | 3-[(4-methoxyphenyl)sulfanyl]benzaldehyde | COC1=CC=C(C=C1)SC=1C=C(C=O)C=CC1 | C14H12O2S
